US08293768B2
Following the procedure as described in step A of Preparation 2, making variations as required to replace 4-fluoroaniline with 4-fluorobenzylamine to react with dimethoxyacetaldehyde followed by the imine reduction with sodium triacetoxyborohydride, N-(4-fluorobenzyl)-2,2-dimethoxyethanamine was obtained in 71% yield: 1H NMR (300 MHz, CDCl3) δ 7.24-7.19 (m, 2H), 6.97-6.89 (m, 2H), 4.43-4.39 (m, 1H), 3.70 (s, 2H), 3.30 (s, 6H), 2.67 (dd, J=5.4, 1.5 Hz, 2H); MS (ES+) m/z 214.3 (M+1).

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | dimethoxyacetaldehyde | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | N-(4-fluorobenzyl)-2,2-dimethoxyethanamine | 71% yield | FC1=CC=C(CNCC(OC)OC)C=C1 | C11H16FNO2
